US08372837B2
To a mixture of tert-butyl 4-hydroxypiperidine-1-carboxylate (121 mg, 0.60 mmol) in THF (3 mL) at room temperature under argon was added NaH (24 mg, 0.60 mmol). After stirring at room temperature under argon for 30 minutes, 5-chloro-2-(4-methoxybenzyl)-6-phenylpyridazin-3(2H)-one (163 mg, 0.50 mmol) was added. The resulting reaction mixture was stirred at room temperature for three days. EtOAc (10 mL) and brine (10 mL) were added to the reaction mixture. Layers were separated. Organic layer were washed with water (15 mL), and brine (15 mL). Organic phase was dried (MgSO4), filtered and concentrated. The crude product was dissolved in a small amount of DCM (˜2 ml) and loaded onto a 40 g ISCO silica gel column which was eluted with a 20 min gradient from 0% to 100% EtOAc/Hexanes. 138.9 mg (56.3%) of tert-butyl-4-(1-(4-methoxybenzyl)-6-oxo-3-phenyl-1,6-dihydropyridazin-4-yloxy)piperidine-1-carboxylate was obtained as a white solid. 1H NMR (400 MHz, CDCl3) δ ppm 1.43 (s, 9H) 1.62-1.82 (m, 2H) 1.80-1.98 (m, 2H) 3.16-3.57 (m, J=5.27, 5.27 Hz, 4H) 3.76 (s, 1H) 4.35-4.64 (m, 1H) 5.26 (s, 2H) 6.21 (s, 1H) 6.84 (d, J=8.79 Hz, 2H) 7.33-7.53 (m, 5H) 7.64 (dd, J=6.81, 3.30 Hz, 2H). MS (ESI) 492 (M+H).

reactant | tert-butyl 4-hydroxypiperidine-1-carboxylate | 0.60 mmol, 121 mg | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | NaH | 0.60 mmol, 24 mg | [H-].[Na+]
reactant | 5-chloro-2-(4-methoxybenzyl)-6-phenylpyridazin-3(2H)-one | 0.50 mmol, 163 mg | ClC1=CC(N(N=C1C1=CC=CC=C1)CC1=CC=C(C=C1)OC)=O | C18H15ClN2O2
reactant | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | brine | 10 mL | [Cl-].[Na+].O
product | tert-butyl-4-(1-(4-methoxybenzyl)-6-oxo-3-phenyl-1,6-dihydropyridazin-4-yloxy)piperidine-1-carboxylate | 138.9 mg, 56.3% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1C(=NN(C(C1)=O)CC1=CC=C(C=C1)OC)C1=CC=CC=C1 | C28H33N3O5
